datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CO[C:64]1=[CH:63][C:62]2=[C:61]([N:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:11]([B-:72](F)(F)F)=[CH:10]2)[CH:66]=[CH:65]1>>CO[C:64]1=[CH:63][C:62]2=[C:61]([N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)=[C:11]([B-:72](F)(F)F)[CH:10]2[C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)[CH:66]=[CH:65]1 10,11=10,20;12=11,12;20,21=21"
"CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N+:12](C3=CC=CC=C3)[CH:63]=[CH:64]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C(C[NH2:10])C=C1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>N#C[CH:20]([NH2+:10]CC1=CC=CC=C1)[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([S:61]([NH-:10])(=[O:62])=[O:63])C=C1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC1=CC=C([S:61]([NH:10][CH:20](C2=CC=CC=C2)[CH-:21][S:32](F)(=[O:33])=[O:34])(=[O:62])=[O:63])C=C1 10=20;20,21=21"
"C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.C1C[C:22](=[O:23])[CH:21]=[CH:20]1>>C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N:10]2[CH:20]1CC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1>>FC(F)(F)[C:62]1=[C:61]([O:10][C:20]2([O-:21])CCCCC2)[CH:72]=[CH:73][CH:64]=[CH:63]1 10=20;20,21=21"
C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])[CH:72]=[CH:73]1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([CH:10]([N+:61]2=[CH:62][CH:63]=[C:64]([N:65](C)C)[CH:73]=[CH:72]2)[C:71](C2=CC=CC=C2)=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C+:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20;12,13=11,12;14,15=13,14"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CN1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1>>CN1CC[N+:12](=[C:11]2CCCC[CH:10]2[CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C/[N:10]=[CH:62]/C2=CC=CC=C2)C=C1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20](/[N+:10](CC2=CC=CC=C2)=[CH:62]\C2=CC=CC=C2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]1[C:11](C)=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](OC)[CH:64]=[CH:63]2)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:33][C:22](=[CH:21][CH2:20][C:10]1=CC=C(C)O1)[O-:23].C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20;20,21=21,22;22,23=23"
